US05635537
A 5% solution of methyl lithium in ether (0.6 ml, 0.96 mmol) was added to a chilled slurry of (±)-8-Carboxy-2-(dipropylamino)tetralin hydrochloride (100 mg, 0, 32 mmol) in ether. The mixture was stirred at room temperature and under nitrogen for three days. Water was added carefully and the mixture was extracted with ether. The organic layer was dried (potassium carbonate) and concentrated. The residue was purified by chromatography on an alumina column eluted with ether/light petroleum 1:4. The pure fractions were pooled, concentrated and converted into the hydrochloride. Recrystallization from acetonitrile/ether gave 55 mg (56%) of pure 8-acetyl-2-(dipropylamino)tetralin hydrochloride.

reactant | methyl lithium | C[Li]
reactant | (±)-8-Carboxy-2-(dipropylamino)tetralin hydrochloride | 32 mmol, 100 mg | Cl.C(=O)(O)C=1C=CC=C2CCC(CC12)N(CCC)CCC
reactant | Water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ether | 0.96 mmol, 0.6 ml | CCOCC | C4H10O
product | 8-acetyl-2-(dipropylamino)tetralin hydrochloride | 55 mg, 56% | Cl.C(C)(=O)C=1C=CC=C2CCC(CC12)N(CCC)CCC | InChI=1S/C18H27NO.ClH/c1-4-11-19(12-5-2)16-10-9-15-7-6-8-17(14(3)20)18(15)13-16;/h6-8,16H,4-5,9-13H2,1-3H3;1H
